US08084620B2
A mixture of 3-fluoro-2,4-diiodopyridine (300 mg, 0.860 mmol), isoindolin-1-one (114 mg, 0.860 mmol), copper (I) iodide (8.19 mg, 0.043 mmol), potassium carbonate (238 mg, 1.720 mmol) and N1,N2-dimethylethane-1,2-diamine (7.58 mg, 0.086 mmol) in 1,4-dioxane (5 mL) was heated at 110° C. in a sealed tube for 15 h. The mixture was cooled to rt, filtered through Celite and washed with DCM. The filtrate was concentrated and the residue was purified by column chromatography (eluting with a gradient from 80:20 hexane-EtOAc to EtOAc) to give 2-(3-fluoro-4-iodopyridin-2-yl)isoindolin-1-one (125 mg, 41%). 1H NMR (400 MHz, chloroform-d) δ 7.86-8.06 (2H, m), 7.41-7.71 (4H, m), 5.04 (2H, s). Mass spectrum m/z 354.9 (M+H)+.

reactant | 3-fluoro-2,4-diiodopyridine | 0.860 mmol, 300 mg | FC=1C(=NC=CC1I)I | C5H2FI2N
reactant | isoindolin-1-one | 0.860 mmol, 114 mg | C1(NCC2=CC=CC=C12)=O | C8H7NO
reactant | potassium carbonate | 1.720 mmol, 238 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N1,N2-dimethylethane-1,2-diamine | 0.086 mmol, 7.58 mg | CNCCNC | C4H12N2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | copper (I) iodide | 0.043 mmol, 8.19 mg | [Cu]I
product | 2-(3-fluoro-4-iodopyridin-2-yl)isoindolin-1-one | 125 mg, 41% | FC=1C(=NC=CC1I)N1C(C2=CC=CC=C2C1)=O | C13H8FIN2O
